US07074794B2
N-(5-Cyano-2-pyridyl)ethylenediamine (10.0 g) and triethylamine (9.5 mL) were dissolved in tetrahydrofuran (300 mL), and ethyl 2-bromoacetate (6.9 mL) was added thereto under ice-cooling. The mixture was stirred at room temperature for 21 hr. Di-tert-butyl dicarbonate (14.2 mL) was added to the reaction mixture, and the mixture was further stirred at room temperature for 21 hr. The reaction mixture was filtrated and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography to give N-tert-butoxycarbonyl-N′-(5-cyano-2-pyridyl)-N-(ethoxycarbonylmethyl)ethylenediamine (17.3 g) as a white solid.

reactant | N-(5-Cyano-2-pyridyl)ethylenediamine | 10.0 g | C(#N)C=1C=CC(=NC1)NCCN | C8H10N4
reactant | triethylamine | 9.5 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 2-bromoacetate | 6.9 mL | BrCC(=O)OCC | C4H7BrO2
reactant | Di-tert-butyl dicarbonate | 14.2 mL | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
product | N-tert-butoxycarbonyl-N′-(5-cyano-2-pyridyl)-N-(ethoxycarbonylmethyl)ethylenediamine | 17.3 g | C(C)(C)(C)OC(=O)N(CCNC1=NC=C(C=C1)C#N)CC(=O)OCC | C17H24N4O4
